US05348955
Step A: N-(3-Bromophenyl)-N-phenylcarbamoyl-chloride
A solution of 15.0 g (60.4 mmole ) of 3-bromodiphenylamine [i.e., N-(3-bromophenyl)aniline][S. Kurzepa and J. Cieslak, Roczniki Chem., 34, 111 (1960)] in 30 ml of toluene and 50 ml (116 mmole) of 1.93M phosgene in toluene were combined and heated at 90° C. under nitrogen for 2 hours with stirring. The red-orange colored solution was cooled, flushed with nitrogen for 2 hours to remove excess phosgene and concentrated in vacuo to 18.0 g (58.0 mmole, 96%) of red-orange oil which was homogeneous by TLC (4:1 hexane-ethyl acetate, Rf =0.80).

reactant | 3-bromodiphenylamine | 60.4 mmole, 15.0 g | C1=CC=C(C=C1)NC2=CC(=CC=C2)Br | C12H10BrN
reactant | phosgene | 116 mmole, 1.93M, 50 ml | C(=O)(Cl)Cl | CCl2O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Bromophenyl)-N-phenylcarbamoyl-chloride | BrC=1C=C(C=CC1)N(C(=O)Cl)C1=CC=CC=C1 | C13H9BrClNO
